US08017775B2
8-Nitro-4-azabenzo[c]chromen-6-one (Reference Compound No. 1-3-(4))
2-(2-Hydroxypyridin-3-yl)-5-nitrobenzoic acid (Reference Compound No. 1-3-(3), 50 mg, 0.20 mmol) was dissolved in N,N-dimethylformamide (5 mL), then N,N-diisopropylethylamine (141 μL, 0.81 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (154 mg, 0.41 mmol) were added thereto, and then the reaction mixture was stirred at room temperature overnight. Ethyl acetate (30 mL) was added to the reaction mixture, the whole was washed with water (30 mL) and saturated brine (30 mL) successively. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. Chloroform was added to the obtained residue, and then filtered to give the titled reference compound (35 mg) as a pale yellow solid. (Yield 71%)

reactant | 2-(2-Hydroxypyridin-3-yl)-5-nitrobenzoic acid | OC1=NC=CC=C1C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C12H8N2O5
reactant | N,N-diisopropylethylamine | 0.81 mmol, 141 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.41 mmol, 154 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 8-Nitro-4-azabenzo[c]chromen-6-one | 35 mg, Yield 71% | [N+](=O)([O-])C=1C=CC2=C(C(OC3=NC=CC=C23)=O)C1 | C12H6N2O4
